US07790709B2
Preparation of (R)-(−)-(E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(10-oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (R)-(E)-3-(10-oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.19 g, 35%) was prepared as a tan powder: [α]25D−173.9° (c 1.00, methanol); 1H NMR (300 MHz, DMSO-d6) δ 12.50 (br s, 1H), 11.27 (s, 1H), 8.83-8.74 (m, 1H), 8.32-8.25 (m, 1H), 7.65-7.60 (m, 1H), 7.51-7.32 (m, 3H), 7.15-6.96 (m, 2H), 6.43-6.18 (m, 1H), 5.07-4.86 (m, 2H), 4.47-4.21 (m, 3H), 3.79-2.88 (m, 9H), 2.09-1.88 (m, 3H); MS (ESI) m/e 430 (M+H)+.

reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (R)-(E)-3-(10-oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylic acid hydrochloride | Cl.O=C1NC2=C(CN3CCC[C@H]13)C=C(C=N2)/C=C/C(=O)O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
solvent | methanol | CO | CH4O
product | (R)-(−)-(E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(10-oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylamide hydrochloride | 0.19 g, 35% | Cl.CN(C(\C=C\C=1C=NC2=C(CN3CCC[C@@H]3C(N2)=O)C1)=O)CC=1N(C2=CC=CC=C2C1)C | InChI=1S/C25H27N5O2.ClH/c1-28(16-20-13-18-6-3-4-7-21(18)29(20)2)23(31)10-9-17-12-19-15-30-11-5-8-22(30)25(32)27-24(19)26-14-17;/h3-4,6-7,9-10,12-14,22H,5,8,11,15-16H2,1-2H3,(H,26,27,32);1H/b10-9+;/t22-;/m1./s1
